US07786155B2
(+/−)-N-{3-fluoro-4-[2-(2-methyl-5-oxo-4-phenyl-4-propyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-acetamide (956 mg, 1.8 mmol) is dissolved in 10 mL ethanol and concentrated hydrochloric acid (192 uL, 1.9 mmol) is added. The mixture is heated to 100° C. in the microwave oven (Biotage Initiator) for 30 min. Subsequently the solvent is evaporated and the residue is suspended in concentrated sodium hydrogen carbonate solution and dichloromethane. This mixture is extracted three times with dichloromethane. The organic phase is dried with sodium sulfate, filtrated and evaporated to yield (+/−)-3-[2-(4-amino-2-fluoro-phenyl)-2-oxo-ethyl]-2-methyl-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one (325 mg, 40%) as light brown foam. LC/MS at 254 nm; [M+H] 368; Rt 2.616 min.

reactant | (+/−)-N-{3-fluoro-4-[2-(2-methyl-5-oxo-4-phenyl-4-propyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-acetamide | 1.8 mmol, 956 mg | FC=1C=C(C=CC1C(CN1C(=NC(C1=O)(CCC)C1=CC=CC=C1)C)=O)NC(C)=O | C23H24FN3O3
reactant | hydrochloric acid | 1.9 mmol, 192 uL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (+/−)-3-[2-(4-amino-2-fluoro-phenyl)-2-oxo-ethyl]-2-methyl-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one | 325 mg, 40% | NC1=CC(=C(C=C1)C(CN1C(=NC(C1=O)(CCC)C1=CC=CC=C1)C)=O)F | C21H22FN3O2
